US03952012
Ethyl 3-carboxy-1,4-dimethyl-5-(p-toluoyl)-pyrrole-2-acetate:
A solution of 37 g. (0.118 mole) of 3-carboxy-1,4-dimethyl-5-(p-toluoyl)-pyrrole-2-acetic acid in 370 ml. of ethanol containing 1.8 g. of dry hydrogen chloride is heated under reflux for 45 min. The solution is cooled and the solid which precipitated, ethyl 3-carboxy-1,4-dimethyl-5-(o-toluoyl)-pyrrole-2-acetate, is collected, m.p. 200°-202°C.

reactant | 3-carboxy-1,4-dimethyl-5-(p-toluoyl)-pyrrole-2-acetic acid | 0.118 mole | C(=O)(O)C1=C(N(C(=C1C)C(=O)C1=CC=C(C=C1)C)C)CC(=O)O | C17H17NO5
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 1.8 g | C(C)O | C2H6O
product | Ethyl 3-carboxy-1,4-dimethyl-5-(p-toluoyl)-pyrrole-2-acetate | C(=O)(O)C1=C(N(C(=C1C)C(=O)C1=CC=C(C=C1)C)C)CC(=O)OCC | C19H21NO5
